### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.FreeModule.Finite.Rank

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean [hunk 1]
```diff
@@ -60,17 +60,18 @@ variable [AddCommGroup N] [Module R N] [Module.Finite R N]
 
 /-- The rank of a finite module is finite. -/
 theorem rank_lt_aleph0 : Module.rank R M < ℵ₀ := by
-  dsimp only [Module.rank]
+  clear! N
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean:63]: What's going on here?

File: Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean [hunk 2]
```diff
@@ -83,23 +84,24 @@ variable [AddCommGroup M] [Module R M] [Module.Free R M] [Module.Finite R M]
...
 theorem finrank_finsupp {ι : Type v} [Fintype ι] : finrank R (ι →₀ R) = card ι := by
-  rw [finrank, rank_finsupp_self, ← mk_to_nat_eq_card, to_nat_lift]
+  rw [finrank, rank_finsupp_self, ← mk_toNat_eq_card, toNat_lift]
 #align finite_dimensional.finrank_finsupp FiniteDimensional.finrank_finsupp
 
-/-- The finrank of `(ι → R)` is `fintype.card ι`. -/
-theorem finrank_pi {ι : Type v} [Fintype ι] : finrank R (ι → R) = card ι := by simp [finrank]
+/-- The finrank of `(ι → R)` is `Fintype.card ι`. -/
+theorem finrank_pi {ι : Type v} [Fintype ι] : finrank R (ι → R) = card ι := by
+  simp only [finrank_fintype_fun_eq_card] -- Porting note: was `simp [finrank]`
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean:104]: What goes wrong with `simp [finrank]`?

**Review by eric-wieser — APPROVED** [review]
LGTM, thanks! I pushed two changes to address my comments; let me know if they look fine to you, and I'll merge.

File: Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean]: (answer: the single french quote syntax is pulling in `N` even though it's not used! I changed the spelling to avoid that.

File: Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FreeModule/Finite/Rank.lean]: Answer: leanprover/lean4#2074

**Comment by Parcly-Taxel** [comment]
> LGTM, thanks! I pushed two changes to address my comments; let me know if they look fine to you, and I'll merge.

Now (with one more commit) everything looks fine and it can be merged.

**Comment by eric-wieser** [comment]
bors merge

Thanks!
